US07544704B2
b) 3-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridazine
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (70 mg, 0.38 mmol) was converted (using 3-iodo-6-methyl-pyridazine instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 84 mg, 80%) which was obtained as a light brown solid. MS: m/e=276.1 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.38 mmol, 70 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 3-iodo-6-methyl-pyridazine | IC=1N=NC(=CC1)C | C5H5IN2
product | 3-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridazine | 84 mg, 80% | CC=1N=NC(=CC1)C#CC=1C(=NOC1C)C1=CC=CC=C1 | C17H13N3O
